*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.003


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_7000_4666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_666 0 pwl(0 0.0 1.335e-01ns 0.0  1.835e-01ns 1.3e-02  8.453e-01ns 1.3e-02  8.953e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 9.93016
cd_0_0_0_0 nd_1_0_1000_666_ci 0 6.07611e-12
id_0_0_0_1 nd_1_0_3000_666 0 pwl(0 0.0 3.340e-01ns 0.0  3.840e-01ns 2.8e-02  7.980e-01ns 2.8e-02  8.480e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 6.91173
cd_0_0_0_1 nd_1_0_3000_666_ci 0 2.3346e-11
id_0_0_0_2 nd_1_0_5000_666 0 pwl(0 0.0 2.345e-02ns 0.0  7.345e-02ns 4.5e-03  4.068e-01ns 4.5e-03  4.568e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 52.7454
cd_0_0_0_2 nd_1_0_5000_666_ci 0 1.739e-12
id_0_0_0_3 nd_1_0_7000_666 0 pwl(0 0.0 2.903e-02ns 0.0  7.903e-02ns 4.3e-02  4.182e-01ns 4.3e-02  4.682e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 5.35624
cd_0_0_0_3 nd_1_0_7000_666_ci 0 3.603e-11
id_0_0_0_4 nd_1_0_9000_666 0 pwl(0 0.0 6.120e-01ns 0.0  6.620e-01ns 2.3e-01  6.742e-01ns 2.3e-01  7.242e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 6.26749
cd_0_0_0_4 nd_1_0_9000_666_ci 0 3.62672e-12
id_0_0_0_5 nd_1_0_1000_2000 0 pwl(0 0.0 7.501e-01ns 0.0  8.001e-01ns 4.4e-03  8.825e-01ns 4.4e-03  9.325e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 153.572
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 9.97813e-13
id_0_0_0_6 nd_1_0_3000_2000 0 pwl(0 0.0 7.596e-01ns 0.0  8.096e-01ns 2.0e-01  8.376e-01ns 2.0e-01  8.876e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 5.76086
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 2.68773e-11
id_0_0_0_7 nd_1_0_5000_2000 0 pwl(0 0.0 8.000e-01ns 0.0  8.500e-01ns 1.5e-01  8.852e-01ns 1.5e-01  9.352e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 6.84587
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 1.23885e-11
id_0_0_0_8 nd_1_0_7000_2000 0 pwl(0 0.0 1.279e-01ns 0.0  1.779e-01ns 3.5e-02  1.803e-01ns 3.5e-02  2.303e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 48.3682
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 3.02719e-13
id_0_0_0_9 nd_1_0_9000_2000 0 pwl(0 0.0 7.122e-01ns 0.0  7.622e-01ns 9.9e-02  8.570e-01ns 9.9e-02  9.070e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 6.2683
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 2.31169e-11
id_0_0_0_10 nd_1_0_1000_3333 0 pwl(0 0.0 2.734e-01ns 0.0  3.234e-01ns 2.1e-02  4.237e-01ns 2.1e-02  4.737e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 28.9326
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 6.04696e-12
id_0_0_0_11 nd_1_0_3000_3333 0 pwl(0 0.0 4.073e-01ns 0.0  4.573e-01ns 4.7e-02  6.093e-01ns 4.7e-02  6.593e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 9.46883
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 8.13066e-12
id_0_0_0_12 nd_1_0_5000_3333 0 pwl(0 0.0 8.955e-02ns 0.0  1.395e-01ns 1.7e-02  5.092e-01ns 1.7e-02  5.592e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 12.9278
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 5.27462e-13
id_0_0_0_13 nd_1_0_7000_3333 0 pwl(0 0.0 6.798e-01ns 0.0  7.298e-01ns 1.3e-02  8.335e-01ns 1.3e-02  8.835e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 46.8053
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 2.93938e-12
id_0_0_0_14 nd_1_0_9000_3333 0 pwl(0 0.0 3.628e-01ns 0.0  4.128e-01ns 4.5e-02  7.437e-01ns 4.5e-02  7.937e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 5.28484
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 3.15457e-11
id_0_0_0_15 nd_1_0_1000_4666 0 pwl(0 0.0 4.645e-02ns 0.0  9.645e-02ns 5.3e-02  3.230e-01ns 5.3e-02  3.730e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 6.14124
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 3.20915e-11
id_0_0_0_16 nd_1_0_3000_4666 0 pwl(0 0.0 5.421e-02ns 0.0  1.042e-01ns 1.5e-02  8.813e-01ns 1.5e-02  9.313e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 7.4283
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 2.68764e-11
id_0_0_0_17 nd_1_0_5000_4666 0 pwl(0 0.0 1.903e-01ns 0.0  2.403e-01ns 1.6e-01  2.883e-01ns 1.6e-01  3.383e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 5.62933
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 2.29587e-11
id_0_0_0_18 nd_1_0_7000_4666 0 pwl(0 0.0 7.738e-01ns 0.0  8.238e-01ns 6.0e-02  8.515e-01ns 6.0e-02  9.015e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 19.4368
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 2.28048e-12
id_0_0_0_19 nd_1_0_9000_4666 0 pwl(0 0.0 8.482e-01ns 0.0  8.982e-01ns 2.3e-02  9.400e-01ns 2.3e-02  9.900e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 42.4003
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 1.783e-12
id_0_0_0_20 nd_1_0_1000_6000 0 pwl(0 0.0 8.548e-02ns 0.0  1.355e-01ns 2.1e-02  7.998e-01ns 2.1e-02  8.498e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 6.1033
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 1.73547e-11
id_0_0_0_21 nd_1_0_3000_6000 0 pwl(0 0.0 2.226e-01ns 0.0  2.726e-01ns 9.6e-03  5.849e-01ns 9.6e-03  6.349e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 25.9717
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 1.39099e-12
id_0_0_0_22 nd_1_0_5000_6000 0 pwl(0 0.0 2.272e-01ns 0.0  2.772e-01ns 7.9e-03  3.536e-01ns 7.9e-03  4.036e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 90.452
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 4.16955e-13
id_0_0_0_23 nd_1_0_7000_6000 0 pwl(0 0.0 3.663e-01ns 0.0  4.163e-01ns 1.6e-02  8.205e-01ns 1.6e-02  8.705e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 12.3484
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 1.35681e-11
id_0_0_0_24 nd_1_0_9000_6000 0 pwl(0 0.0 4.665e-02ns 0.0  9.665e-02ns 1.3e-02  8.749e-01ns 1.3e-02  9.249e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 8.11676
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 1.20261e-11
id_0_0_0_25 nd_1_0_1000_7333 0 pwl(0 0.0 1.859e-01ns 0.0  2.359e-01ns 5.0e-02  5.367e-01ns 5.0e-02  5.867e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 5.18087
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 2.47195e-11
id_0_0_0_26 nd_1_0_3000_7333 0 pwl(0 0.0 3.180e-01ns 0.0  3.680e-01ns 3.9e-02  7.017e-01ns 3.9e-02  7.517e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 6.04817
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 2.13018e-11
id_0_0_0_27 nd_1_0_5000_7333 0 pwl(0 0.0 3.288e-01ns 0.0  3.788e-01ns 7.0e-02  5.056e-01ns 7.0e-02  5.556e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 7.26658
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 8.2541e-12
id_0_0_0_28 nd_1_0_7000_7333 0 pwl(0 0.0 4.614e-01ns 0.0  5.114e-01ns 3.5e-02  6.749e-01ns 3.5e-02  7.249e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 12.0383
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 7.3856e-12
id_0_0_0_29 nd_1_0_9000_7333 0 pwl(0 0.0 5.993e-01ns 0.0  6.493e-01ns 4.3e-02  9.150e-01ns 4.3e-02  9.650e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 6.56962
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 1.8311e-11
id_0_0_0_30 nd_1_0_1000_8666 0 pwl(0 0.0 2.877e-01ns 0.0  3.377e-01ns 6.5e-03  6.646e-01ns 6.5e-03  7.146e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 36.5253
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 4.09111e-12
id_0_0_0_31 nd_1_0_3000_8666 0 pwl(0 0.0 2.895e-01ns 0.0  3.395e-01ns 1.1e-01  4.496e-01ns 1.1e-01  4.996e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 5.12421
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 3.51725e-11
id_0_0_0_32 nd_1_0_5000_8666 0 pwl(0 0.0 8.747e-01ns 0.0  9.247e-01ns 1.8e-01  9.458e-01ns 1.8e-01  9.958e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 7.21307
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 2.5125e-11
id_0_0_0_33 nd_1_0_7000_8666 0 pwl(0 0.0 5.604e-01ns 0.0  6.104e-01ns 6.1e-03  7.741e-01ns 6.1e-03  8.241e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 69.4444
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 1.61923e-12
id_0_0_0_34 nd_1_0_9000_8666 0 pwl(0 0.0 7.005e-01ns 0.0  7.505e-01ns 9.8e-02  7.775e-01ns 9.8e-02  8.275e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 11.8937
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 3.5473e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val122'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val123'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val124'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val125'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val126'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val127'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet1
